US07329654B2
Step D: 2,2-dimethyl-propionic acid 8-(2,2-dimethyl-propionyloxy)-11-methyl-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromen-2-yl ester
To a suspension of 5-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol, prepared as om STEP C above, in dichloromethane (5 mL) (DCM) at 5° C. was added TEA (42 mg, 0.42 mmol) and the reaction mixture stirred for 5 min. Trimethylacetyl chloride (47 mg, 0.39 mmol) was then added to the reaction mixture and the mixture stirred at room temperature overnight. To the reaction mixture was then added saturated NaHCO3 (10 mL) and stirred for 1 h. The resulting mixture was extracted with DCM, washed with brine and dried over MgSO4. The organic layer was concentrated and the residue was purified via silica gel with 2% methanol in DCM as the eluent, to yield the title compound as a thick yellow oil.

reactant | 5-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol | CC1(OC=2C=C(C=CC2C=2COC=3C=C(C=CC3C21)O)O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H31NO5
reactant | Trimethylacetyl chloride | 0.39 mmol, 47 mg | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-propionic acid 8-(2,2-dimethyl-propionyloxy)-11-methyl-11-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5,11-dihydro-chromeno[4,3-c]chromen-2-yl ester | CC(C(=O)OC=1C=CC2=C(C1)OCC1=C2C(OC=2C=C(C=CC12)OC(C(C)(C)C)=O)(C1=CC=C(C=C1)OCCN1CCCCC1)C)(C)C | C40H47NO7
